US05118693
Preparation of 4-benzylcarbamoyloxy-1-[4,4-bis(4-fluorophenyl)-3-butenyl]-4-ethynyl-piperidine
9.8 g of 1-[4,4-bis(4-fluorophenyl)-3-butenyl]-4-ethynyl -4-phenoxycarbonyloxypiperidine are stirred with 9 ml of benzylamine at 42° C. under nitrogen for 30 minutes, then at room temperature for 10 hours. Thereafter, benzene is added to the reaction mixture and washed first with an aqueous sodium hydroxide solution of 1 ml/liter concentration, then with water and dried over anhydrous magnesium sulfate. After evaporating the solution under reduced pressure, the residue is boiled in hexane and after filtration it is recrystallization from diisopropyl ether to give the title product in 75.7% yield, m.p.: 94°-95° C.

reactant | 1-[4,4-bis(4-fluorophenyl)-3-butenyl]-4-ethynyl -4-phenoxycarbonyloxypiperidine | 9.8 g | FC1=CC=C(C=C1)C(=CCCN1CCC(CC1)(OC(=O)OC1=CC=CC=C1)C#C)C1=CC=C(C=C1)F | C30H27F2NO3
reactant | benzylamine | 9 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-benzylcarbamoyloxy-1-[4,4-bis(4-fluorophenyl)-3-butenyl]-4-ethynyl-piperidine | 75.7% yield | C(C1=CC=CC=C1)NC(=O)OC1(CCN(CC1)CCC=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C#C | C31H30F2N2O2
